*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 3.8
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_0 1 2 3 4 REF
C_C1 1 REF 0.344269059069pf
C_C2 1 2 16.254279684943pf
C_C3 1 3 0.0247140204988pf
C_C4 1 4 0.2042196294775pf
C_C5 2 REF 0.5467816516359pf
C_C6 2 3 0.0936153174395pf
C_C7 3 REF 0.3985749369048pf
C_C8 3 4 7.0314664229564pf
C_C9 4 REF 0.393950743192pf
L_L1 3 5 1.305297207339nh
R_RL1 5 4 -1.052200605e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_1 1 2 3 4 REF
C_C1 1 REF 0.3549271034506pf
C_C2 1 2 16.350013814802pf
C_C3 1 3 0.0203225385389pf
C_C4 1 4 0.2105596708277pf
C_C5 2 REF 0.5602410730926pf
C_C6 2 3 0.0964006598015pf
C_C7 3 REF 0.4001588659366pf
C_C8 3 4 5.2166959994138pf
C_C9 4 REF 0.3919670418842pf
L_L1 3 5 1.306775816347nh
R_RL1 5 4 3.5468448914e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_2 1 2 3 4 REF
C_C1 1 REF 0.3538835813801pf
C_C2 1 2 16.472407677381pf
C_C3 1 3 0.0172632311458pf
C_C4 1 4 0.2156665525215pf
C_C5 2 REF 0.5624003989327pf
C_C6 2 3 0.0989812665491pf
C_C7 3 REF 0.400621811495pf
C_C8 3 4 3.9490428678381pf
C_C9 4 REF 0.3911045158611pf
L_L1 3 5 1.3080076525201nh
R_RL1 5 4 2.1924955945e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_3 1 2 3 4 REF
C_C1 1 REF 0.3452024462017pf
C_C2 1 2 16.665120058852pf
C_C3 1 3 0.0145946925175pf
C_C4 1 4 0.2210250038422pf
C_C5 2 REF 0.5582453629656pf
C_C6 2 3 0.1018458762955pf
C_C7 3 REF 0.400415421549pf
C_C8 3 4 2.8577892227972pf
C_C9 4 REF 0.3908766909671pf
L_L1 3 5 1.309254554928nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_4 1 2 3 4 REF
C_C1 1 REF 0.3321953489793pf
C_C2 1 2 16.948443714935pf
C_C3 1 3 0.0123201579495pf
C_C4 1 4 0.2266746882382pf
C_C5 2 REF 0.55125206238pf
C_C6 2 3 0.104770860501pf
C_C7 3 REF 0.3997644777492pf
C_C8 3 4 1.982783717427pf
C_C9 4 REF 0.3911306084544pf
L_L1 3 5 1.3105007340494nh
R_RL1 5 4 -1.031294232e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_5 1 2 3 4 REF
C_C1 1 REF 0.320005702758pf
C_C2 1 2 17.29399718304pf
C_C3 1 3 0.0105572990954pf
C_C4 1 4 0.2320495183866pf
C_C5 2 REF 0.5457530414761pf
C_C6 2 3 0.1072615728216pf
C_C7 3 REF 0.3990474423035pf
C_C8 3 4 1.4034113836553pf
C_C9 4 REF 0.3915762156052pf
L_L1 3 5 1.3115071082352nh
R_RL1 5 4 -2.510941704e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_6 1 2 3 4 REF
C_C1 1 REF 0.3098410051321pf
C_C2 1 2 17.7050830981pf
C_C3 1 4 0.2375352047853pf
C_C4 2 REF 0.5429806907681pf
C_C5 2 3 0.1094670451202pf
C_C6 3 REF 0.3984333022467pf
C_C7 3 4 1.0062609817326pf
C_C8 4 REF 0.3920171558288pf
L_L1 3 5 1.3123334728311nh
R_RL1 5 4 -3.78104487e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_7 1 2 3 4 REF
C_C1 1 REF 0.3004147958477pf
C_C2 1 2 18.278197419676pf
C_C3 1 4 0.2444605112716pf
C_C4 2 REF 0.5432128514254pf
C_C5 2 3 0.1118769550044pf
C_C6 3 REF 0.3979040537122pf
C_C7 3 4 0.6890497505938pf
C_C8 4 REF 0.3924312270842pf
L_L1 3 5 1.3131123923137nh
R_RL1 5 4 -4.981031634e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_8 1 2 3 4 REF
C_C1 1 REF 0.2918265290363pf
C_C2 1 2 19.055018226208pf
C_C3 1 4 0.2533019286285pf
C_C4 2 REF 0.547024328559pf
C_C5 2 3 0.1146283284676pf
C_C6 3 REF 0.3975167919934pf
C_C7 3 4 0.4444652537986pf
C_C8 4 REF 0.3927533512494pf
L_L1 3 5 1.3138468431768nh
R_RL1 5 4 -6.042386849e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_9 1 2 3 4 REF
C_C1 1 REF 0.2834472605163pf
C_C2 1 2 20.11849994204pf
C_C3 1 4 0.2649836851143pf
C_C4 2 REF 0.5548479513126pf
C_C5 2 3 0.1180329283092pf
C_C6 3 REF 0.3972863246445pf
C_C7 3 4 0.2638459791676pf
C_C8 4 REF 0.3929520612231pf
L_L1 3 5 1.3144980397512nh
R_RL1 5 4 -6.807065256e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_10 1 2 3 4 REF
C_C1 1 REF 0.2740979447235pf
C_C2 1 2 21.553829334745pf
C_C3 1 4 0.2804865185016pf
C_C4 2 REF 0.5666157193557pf
C_C5 2 3 0.1224884873765pf
C_C6 3 REF 0.3971752042527pf
C_C7 3 4 0.1327390773305pf
C_C8 4 REF 0.3930410001704pf
L_L1 3 5 1.315065928344nh
R_RL1 5 4 -7.19397558e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_11 1 2 3 4 REF
C_C1 1 REF 0.2620150852386pf
C_C2 1 2 23.531667346065pf
C_C3 1 4 0.3017206188477pf
C_C4 2 REF 0.5828576695629pf
C_C5 2 3 0.1287197013762pf
C_C6 3 REF 0.3971290137694pf
C_C7 3 4 0.0402610634125pf
C_C8 4 REF 0.393054892511pf
L_L1 1 5 61.791226616594nh
R_RL1 5 2 4.8389335147658
L_L2 3 6 1.3155198623944nh
R_RL2 6 4 -7.075308531e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_12 1 2 3 4 REF
C_C1 1 REF 0.2451685453084pf
C_C2 1 2 26.264627575355pf
C_C3 1 4 0.3310922002953pf
C_C4 2 REF 0.6044208618826pf
C_C5 2 3 0.1376642047026pf
C_C6 3 REF 0.3970834892835pf
C_C7 4 REF 0.3930488170008pf
L_L1 1 5 35.406963492796nh
R_RL1 5 2 2.4258929874777
L_L2 3 6 1.3156779345674nh
R_RL2 6 4 -6.375365774e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_13 1 2 3 4 REF
C_C1 1 REF 0.2202094898953pf
C_C2 1 2 30.192540487605pf
C_C3 1 4 0.3734883758546pf
C_C4 2 REF 0.6339285386016pf
C_C5 2 3 0.1511010625814pf
C_C6 3 REF 0.3969799308803pf
C_C7 4 REF 0.3930868776755pf
R_R1 1 2 -910.896964592
L_L1 1 5 68.070322465947nh
R_RL1 5 2 4.6342201270527
L_L2 3 6 1.3154454393951nh
R_RL2 6 4 -6.682183994e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_14 1 2 3 4 REF
C_C1 1 REF 0.1822978842636pf
C_C2 1 2 36.00130754616pf
C_C3 1 4 0.436396868603pf
C_C4 2 REF 0.6758726608037pf
C_C5 2 3 0.1716292626031pf
C_C6 3 REF 0.3967721813872pf
C_C7 4 REF 0.3932443695229pf
R_R1 1 2 -571.6097104235
L_L1 1 5 15.205896829704nh
R_RL1 5 2 2.1739103287164
L_L2 3 6 1.3150033359651nh
R_RL2 6 4 -3.305231621e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_15 1 2 3 4 REF
C_C1 1 REF 0.1207347763135pf
C_C2 1 2 45.260687558567pf
C_C3 1 4 0.5366398712341pf
C_C4 2 REF 0.7409348053933pf
C_C5 2 3 0.20479837869pf
C_C6 3 REF 0.3964104772487pf
C_C7 4 REF 0.3936423452557pf
R_R1 1 2 -383.8781346834
L_L1 1 5 8.3221808192806nh
R_RL1 5 2 0.9186006756668
L_L2 3 6 1.3142687391724nh
R_RL2 6 4 -1.008457411e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_16 1 2 3 4 REF
C_C1 1 2 62.759189955868pf
C_C2 1 4 0.7254339430004pf
C_C3 2 REF 0.8619548629402pf
C_C4 2 3 0.2673224500928pf
C_C5 3 REF 0.3957712077616pf
C_C6 4 REF 0.3946061182024pf
R_R1 1 2 -258.837513964
L_L1 1 5 4.2941593789225nh
R_RL1 5 2 0.3225010369235
L_L2 3 6 1.3128965979022nh
R_RL2 6 4 1.6297214671e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_17 1 2 3 4 REF
C_C1 1 2 103.25131693683pf
C_C2 1 4 1.1611060190507pf
C_C3 2 REF 1.1397119864345pf
C_C4 2 3 0.4111756987453pf
C_C5 3 REF 0.39449755252pf
C_C6 4 REF 0.3972041200008pf
R_R1 1 2 -167.3183280181
L_L1 1 5 1.489195369771nh
R_RL1 5 2 0.0986539500489
L_L2 1 6 65.563911128047nh
R_RL2 6 3 0.0600882228842
L_L3 1 7 64.823879695778nh
R_RL3 7 4 0.0606890028895
L_L4 2 8 65.655375846789nh
R_RL4 8 3 0.0051742528236
L_L5 2 9 64.918292323689nh
R_RL5 9 4 0.0050753632364
L_L6 3 10 1.309809805888nh
R_RL6 10 4 4.1820020906e-5
Kn_K1 L_L1 L_L2 0.0707269985439
Kn_K2 L_L1 L_L3 0.070979546595
Kn_K3 L_L1 L_L4 -0.079927735238
Kn_K4 L_L1 L_L5 -0.080530113006
Kn_K5 L_L2 L_L3 0.9899704506429
Kn_K6 L_L2 L_L4 0.9886513340477
Kn_K7 L_L2 L_L5 0.9785381451438
Kn_K8 L_L2 L_L6 -0.110599632793
Kn_K9 L_L3 L_L4 0.9785907381111
Kn_K10 L_L3 L_L5 0.9885221482799
Kn_K11 L_L3 L_L6 0.0309174976812
Kn_K12 L_L4 L_L5 0.9899845792852
Kn_K13 L_L4 L_L6 -0.110363623333
Kn_K14 L_L5 L_L6 0.0310548514142
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_18 1 2 3 4 REF
C_C1 1 2 247.85130977824pf
C_C2 1 4 2.7164382680559pf
C_C3 2 REF 2.1279988871821pf
C_C4 2 3 0.9240893883172pf
C_C5 3 REF 0.390618291387pf
C_C6 4 REF 0.407380681131pf
R_R1 1 2 -96.50082208228
L_L1 1 5 55.618744624142nh
R_RL1 5 REF -0.031191551629
L_L2 1 6 0.4204535916647nh
R_RL2 6 2 0.0169392484493
L_L3 1 7 21.552980781846nh
R_RL3 7 3 0.0099456983565
L_L4 1 8 20.863088944181nh
R_RL4 8 4 0.0102576300495
L_L5 2 9 55.283280766392nh
R_RL5 9 REF -0.013544150863
L_L6 2 10 21.625923030368nh
R_RL6 10 3 0.0010924911439
L_L7 2 11 20.940051323208nh
R_RL7 11 4 0.001032032283
L_L8 3 12 76.66926977663nh
R_RL8 12 REF -0.021941669363
L_L9 3 13 1.2989752862912nh
R_RL9 13 4 6.1164127679e-5
L_L10 4 14 75.969923880146nh
R_RL10 14 REF -0.021669863965
Kn_K1 L_L1 L_L2 0.0781582362768
Kn_K2 L_L1 L_L5 0.9962133410683
Kn_K3 L_L1 L_L8 0.8478788296044
Kn_K4 L_L1 L_L10 0.8516997696542
Kn_K5 L_L2 L_L3 0.0577199950438
Kn_K6 L_L2 L_L4 0.0579878887968
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081812399074
Kn_K9 L_L2 L_L7 -0.083818874565
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.969503644861
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9902639357748
Kn_K15 L_L3 L_L7 0.959541434645
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.187941054032
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9597817010193
Kn_K21 L_L4 L_L7 0.9899437349701
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0585001599291
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8473108731954
Kn_K26 L_L5 L_L10 0.8510979682786
Kn_K27 L_L6 L_L7 0.9696091275675
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.187244585173
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0587779642838
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1001207717778
Kn_K35 L_L8 L_L10 0.9915003036235
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_19 1 2 3 4 REF
C_C1 1 2 6858.0038380611pf
C_C2 1 4 73.853643775534pf
C_C3 2 REF 47.252395433579pf
C_C4 2 3 24.375456926816pf
C_C5 3 REF 0.2299983701431pf
C_C6 3 4 0.1123581099165pf
C_C7 4 REF 0.8924648356989pf
R_R1 1 REF -90.23325312643
R_R2 1 2 0.6150716478404
R_R3 1 3 -172.9713492106
R_R4 1 4 57.186081976277
R_R5 2 REF 90.263540078445
R_R6 2 3 173.03617520286
R_R7 2 4 -57.20765474993
L_L1 1 5 1.2531298702106nh
R_RL1 5 REF -1.403410514e-5
L_L2 1 6 0.0102998904159nh
R_RL2 6 2 -2.443573265e-3
L_L3 1 7 1.1234728555231nh
R_RL3 7 3 -6.723123128e-4
L_L4 1 8 0.6488033625936nh
R_RL4 8 4 -1.661882675e-3
L_L5 2 9 1.246470026188nh
R_RL5 9 REF -2.458822764e-3
L_L6 2 10 1.1238805761711nh
R_RL6 10 3 -5.192667758e-4
L_L7 2 11 0.6530384427746nh
R_RL7 11 4 -7.194891355e-5
L_L8 3 12 2.3676545850087nh
R_RL8 12 REF -6.882547059e-4
L_L9 3 13 0.9299822202728nh
R_RL9 13 4 -1.785284634e-4
L_L10 4 14 1.8879844763285nh
R_RL10 14 REF -1.677101795e-3
Kn_K1 L_L1 L_L2 0.0746405290186
Kn_K2 L_L1 L_L5 0.9958829191752
Kn_K3 L_L1 L_L8 0.7249123951655
Kn_K4 L_L1 L_L10 0.8101678130353
Kn_K5 L_L2 L_L3 0.0459794711148
Kn_K6 L_L2 L_L4 0.037094914362
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.049760668633
Kn_K9 L_L2 L_L7 -0.088613213429
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.019553100846
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4932826861792
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9954168964012
Kn_K16 L_L3 L_L7 0.4859061141424
Kn_K17 L_L3 L_L8 0.7656006172901
Kn_K18 L_L3 L_L9 -0.687100149188
Kn_K19 L_L3 L_L10 0.8556412911478
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4896420388024
Kn_K22 L_L4 L_L7 0.9920934662292
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2930798265127
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7247893799192
Kn_K27 L_L5 L_L10 0.8087782503753
Kn_K28 L_L6 L_L7 0.494301070117
Kn_K29 L_L6 L_L8 0.7632954229691
Kn_K30 L_L6 L_L9 -0.685103651499
Kn_K31 L_L6 L_L10 0.8517463884159
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2945835690803
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4749911552887
Kn_K36 L_L8 L_L10 0.7864824885534
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_20 1 2 3 4 REF
C_C1 1 REF 44.932940933199pf
C_C2 1 3 23.19994634311pf
C_C3 2 4 70.169702285339pf
C_C4 3 REF 0.5534105028712pf
R_R1 1 REF 110.01334703674
R_R2 1 2 -0.749645329814
R_R3 1 3 210.77867653375
R_R4 1 4 -69.71255351627
R_R5 2 REF -110.0576988433
R_R6 2 3 -210.8600608957
R_R7 2 4 69.739360107394
L_L1 1 5 1.0992460227094nh
R_RL1 5 REF 1.9726108802e-4
L_L2 1 6 0.0431273766251nh
R_RL2 6 2 0.6810964737191
L_L3 1 7 1.0303094126512nh
R_RL3 7 3 0.1777651598945
L_L4 1 8 0.5964788433748nh
R_RL4 8 4 0.4764638101784
L_L5 2 9 1.1288905491426nh
R_RL5 9 REF 0.7046692109464
L_L6 2 10 1.0296822133219nh
R_RL6 10 3 0.1629618420859
L_L7 2 11 0.577298372317nh
R_RL7 11 4 0.0182324923996
L_L8 3 12 2.1216458822703nh
R_RL8 12 REF 0.1899034360812
L_L9 3 13 0.8913951163574nh
R_RL9 13 4 0.0721902196593
L_L10 4 14 1.6919991365812nh
R_RL10 14 REF 0.4962124784717
Kn_K1 L_L1 L_L2 0.0309619098102
Kn_K2 L_L1 L_L5 0.9807310001287
Kn_K3 L_L1 L_L8 0.7172089754021
Kn_K4 L_L1 L_L10 0.8046569571403
Kn_K5 L_L2 L_L3 0.1037846509736
Kn_K6 L_L2 L_L4 0.1942400186381
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.100839949607
Kn_K9 L_L2 L_L7 -0.075882690123
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0473128232071
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.4690382087513
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9790643405538
Kn_K16 L_L3 L_L7 0.4483995874518
Kn_K17 L_L3 L_L8 0.7408142600827
Kn_K18 L_L3 L_L9 -0.691418332244
Kn_K19 L_L3 L_L10 0.8311403911114
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.4294286121676
Kn_K22 L_L4 L_L7 0.9633862443637
Kn_K23 L_L4 L_L8 0.9736338068336
Kn_K24 L_L4 L_L9 0.3137543272172
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.017125178135
Kn_K27 L_L5 L_L8 0.7175095530841
Kn_K28 L_L5 L_L9 -0.011332975318
Kn_K29 L_L5 L_L10 0.8116854612674
Kn_K30 L_L6 L_L7 0.4640659944273
Kn_K31 L_L6 L_L8 0.751280299961
Kn_K32 L_L6 L_L9 -0.701311741135
Kn_K33 L_L6 L_L10 0.849888749486
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.305992221933
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.4803026798363
Kn_K38 L_L8 L_L10 0.7711712658572
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_21 1 2 3 4 REF
C_C1 1 2 176.53007148498pf
C_C2 1 4 1.9434953213801pf
C_C3 2 REF 1.6449370169308pf
C_C4 2 3 0.6712267508437pf
C_C5 3 REF 0.3906155672632pf
C_C6 4 REF 0.4001716599209pf
R_R1 1 2 -78.19254349068
L_L1 1 5 52.048099868105nh
R_RL1 5 REF 0.0094802957578
L_L2 1 6 0.1935558783717nh
R_RL2 6 2 0.0119217865547
L_L3 1 7 17.71141337033nh
R_RL3 7 3 0.0071051277678
L_L4 1 8 17.008805426147nh
R_RL4 8 4 0.0073316309114
L_L5 2 9 51.533263361492nh
R_RL5 9 REF 0.0224212390817
L_L6 2 10 17.845319836103nh
R_RL6 10 3 4.6795124637e-4
L_L7 2 11 17.150842013034nh
R_RL7 11 4 3.7407492033e-4
L_L8 3 12 69.391779544571nh
R_RL8 12 REF 0.0178023216761
L_L9 3 13 1.2932899807189nh
R_RL9 13 4 -2.062675403e-5
L_L10 4 14 68.676599411809nh
R_RL10 14 REF 0.0179704760876
Kn_K1 L_L1 L_L2 0.1115933373484
Kn_K2 L_L1 L_L5 0.9981436932421
Kn_K3 L_L1 L_L8 0.8630014147809
Kn_K4 L_L1 L_L10 0.867378170639
Kn_K5 L_L2 L_L3 0.016108176634
Kn_K6 L_L2 L_L4 0.0141971050818
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.088097994065
Kn_K9 L_L2 L_L7 -0.092095052504
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9629482865084
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9945634740503
Kn_K15 L_L3 L_L7 0.9572413915999
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.208513301533
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9578500650859
Kn_K21 L_L4 L_L7 0.9943423815352
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0629707556476
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8618772401816
Kn_K26 L_L5 L_L10 0.8661793027119
Kn_K27 L_L6 L_L7 0.9632344847749
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.206883346072
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0635725941747
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1060067229198
Kn_K35 L_L8 L_L10 0.9906462651057
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_22 1 2 3 4 REF
C_C1 1 REF 0.1345885859686pf
C_C2 1 2 46.737630720823pf
C_C3 1 4 0.5479471298268pf
C_C4 2 REF 0.7656084218457pf
C_C5 2 3 0.2096577826707pf
C_C6 3 REF 0.3928959484221pf
C_C7 4 REF 0.3897096378036pf
R_R1 1 2 -784.5903110116
L_L1 1 5 0.5937946770009nh
R_RL1 5 2 0.009383951993
L_L2 1 6 67.228858301846nh
R_RL2 6 3 0.012466584773
L_L3 1 7 66.351043190394nh
R_RL3 7 4 0.0124244640269
L_L4 2 8 68.004389044014nh
R_RL4 8 3 -8.662032006e-4
L_L5 2 9 67.134306773068nh
R_RL5 9 4 -9.483124552e-4
L_L6 3 10 1.3060095445478nh
R_RL6 10 4 -5.536614656e-5
Kn_K1 L_L1 L_L2 -0.014381861663
Kn_K2 L_L1 L_L3 -0.015092664683
Kn_K3 L_L1 L_L4 -0.107743245344
Kn_K4 L_L1 L_L5 -0.109051567981
Kn_K5 L_L2 L_L3 0.9902443902636
Kn_K6 L_L2 L_L4 0.995625479271
Kn_K7 L_L2 L_L5 0.9858033690613
Kn_K8 L_L2 L_L6 -0.116529726163
Kn_K9 L_L3 L_L4 0.9859920761611
Kn_K10 L_L3 L_L5 0.9955687509629
Kn_K11 L_L3 L_L6 0.0229992655699
Kn_K12 L_L4 L_L5 0.990356311093
Kn_K13 L_L4 L_L6 -0.115453093165
Kn_K14 L_L5 L_L6 0.0232776222328
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_23 1 2 3 4 REF
C_C1 1 REF 0.3250410310415pf
C_C2 1 2 19.481271923726pf
C_C3 1 3 0.0197578895304pf
C_C4 1 4 0.2549912808706pf
C_C5 2 REF 0.5866746185126pf
C_C6 2 3 0.1115406255564pf
C_C7 3 REF 0.3924948766156pf
C_C8 4 REF 0.386524637471pf
L_L1 1 5 0.9520176282224nh
R_RL1 5 2 3.1163607178e-4
L_L2 3 6 1.3077547244982nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_24 1 2 3 4 REF
C_C1 1 REF 0.392487441667pf
C_C2 1 2 10.622120073325pf
C_C3 1 3 0.0557319997429pf
C_C4 1 4 0.1584876846971pf
C_C5 2 REF 0.5333266958307pf
C_C6 2 3 0.0784676551033pf
C_C7 3 REF 0.3913954508494pf
C_C8 4 REF 0.3843730007575pf
L_L1 1 5 1.3572843462277nh
R_RL1 5 2 3.4901756519e-5
L_L2 3 6 1.3056744031635nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_25 1 2 3 4 REF
C_C1 1 REF 0.4261257061901pf
C_C2 1 2 6.9675330040287pf
C_C3 1 3 0.0753074788309pf
C_C4 1 4 0.1169578793994pf
C_C5 2 REF 0.517427233088pf
C_C6 2 3 0.0625527695795pf
C_C7 2 4 0.0307148271821pf
C_C8 3 REF 0.3898034468861pf
C_C9 4 REF 0.3821916715078pf
L_L1 1 5 1.7730121969485nh
R_RL1 5 2 3.9125294396e-4
L_L2 3 6 1.3032211474143nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_26 1 2 3 4 REF
C_C1 1 REF 0.4409627564283pf
C_C2 1 2 5.7808239911612pf
C_C3 1 3 0.0854351507098pf
C_C4 1 4 0.1020273717904pf
C_C5 2 REF 0.5166679356442pf
C_C6 2 3 0.0553415428852pf
C_C7 2 4 0.0487085953767pf
C_C8 3 REF 0.388480591667pf
C_C9 4 REF 0.3805681819621pf
L_L1 1 5 1.8928542257302nh
R_RL1 5 2 9.1721445485e-5
L_L2 3 6 1.3021396755177nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param37_26

